US07754882B2
Trans-6-(4-Bromo-phenyl)-8-(3-piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinoline
A mixture of 1-[2-(4-bromo-phenyl)-2-(3-methoxy-phenyl)-ethyl]-5-ethoxy-pyrrolidin-2-one (472.2 mg, 1.13 mmol) and MSA (2 N in ethanol, 10 mL) was stirred for 2 h at rt. The mixture was diluted with EtOAc, washed with satd. aq. NaHCO3 and brine, dried (MgSO4), and concentrated to give a colorless oil. Chromatographic purification (EtOAc/hexanes) yielded 325.4 mg (78%) of the desired product as a mixture of cis and trans diastereomers. The diastereomers were separated by normal-phase HPLC.

reactant | 1-[2-(4-bromo-phenyl)-2-(3-methoxy-phenyl)-ethyl]-5-ethoxy-pyrrolidin-2-one | 1.13 mmol, 472.2 mg | BrC1=CC=C(C=C1)C(CN1C(CCC1OCC)=O)C1=CC(=CC=C1)OC | C21H24BrNO3
reactant | ethanol | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Trans-6-(4-Bromo-phenyl)-8-(3-piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinoline | 325.4 mg, 78% | BrC1=CC=C(C=C1)[C@@H]1CN2[C@@H](C3=CC=C(C=C13)OCCCN1CCCCC1)CCC2 | C26H33BrN2O
